US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (137 mg, 0.787 mmol), (R)-2-amino-3-(thiophen-2-yl)propanamide hydrochloride (163 mg, 0.789 mmol) and DIEA (0.350 mL, 2.01 mmol) in DMF (4 mL) was stirred at room temperature for 4 h. Water and EtOAc were added. Organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-(thiophen-2-yl)propanamide (185 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.787 mmol, 137 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | (R)-2-amino-3-(thiophen-2-yl)propanamide hydrochloride | 0.789 mmol, 163 mg | Cl.N[C@@H](C(=O)N)CC=1SC=CC1
reactant | DIEA | 2.01 mmol, 0.350 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-(thiophen-2-yl)propanamide | 185 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC=1SC=CC1)C#N | C12H10ClN5OS
